US04158663
2-(Dimethoxymethyl)-4H-1-benzopyran-4-one.
A stirred solution of 2-[(methylthio)hydroxymethyl)-4H-1- benzopyran-4-one acetate](2.64 g, 0.01 m) and iodine (1.39 g, 0.01 m) in methanol (50 ml) was refluxed under nitrogen for 6 hours. After cooling, the solvents were removed under reduced pressure. The red-brown oil was dissolved in chloroform and washed three times (30 ml) with aqueous saturated sodium thiosulfate. The chloroform extract was dried over sodium sulfate. Removal of the solvent under reduced pressure gave crude solid product. Recrystallization from isopropyl ether gave yellow crystals (1.9 g, 86%), m.p. 64°-68°.

reactant | 2-[(methylthio)hydroxymethyl)-4H-1- benzopyran-4-one acetate | C(C)(=O)O.CSC(C=1OC2=C(C(C1)=O)C=CC=C2)O
reactant | iodine | 1.39 g | II | I2
reactant | methanol | 50 ml | CO | CH4O
product | 2-(Dimethoxymethyl)-4H-1-benzopyran-4-one | 1.9 g, 86% | COC(C=1OC2=C(C(C1)=O)C=CC=C2)OC | C12H12O4
